US05258141
Epichlorohydrin (one mole, 93 g) is slowly added to an aqueous solution of one mole sodium bisulfite (104 g in about 120 ml water) while maintaining the temperature at about 80° C. The epichlorohydrin is added dropwise over about three hours, and after addition is complete, the mixture is stirred for an additional hour. After the mixture cools to about 20° C., the solids of 3-chloro-2hydroxypropylsulfonic acid sodium salt formed from the reaction are filtered and analyzed by Nuclear Magnetic Resonance (NMR). The ISC spectra shows peaks at 69.99 ppm, 56.97 ppm, and 51.18 ppm from TMS (tetramethyl silane) and the proton spectrum shows, three groups of peaks centering at 2.95, 3.58 and 4.17 ppm (from TMS), in a 2:2:1 ratio respectively, consistent with the structure of CHPS.

reactant | Epichlorohydrin | one mole, 93 g | C(Cl)C1CO1 | C3H5ClO
reactant | sodium bisulfite | one mole, about 120 ml, 104 g | S([O-])(O)=O.[Na+]
product | 3-chloro-2hydroxypropylsulfonic acid sodium salt | [Na+].ClCC(CS(=O)(=O)[O-])O | InChI=1S/C3H7ClO4S.Na/c4-1-3(5)2-9(6,7)8;/h3,5H,1-2H2,(H,6,7,8);/q;+1/p-1
